US04473571
Taylor et al [J. Am. Chem. Soc. 81, 2442-8 (1959)] show, inter alia, the preparation of 2-(3-pyridinyl)-9H-purin-6-amine by heating the nicotinamidine salt of isonitrosomalonitrile in formamide to produce 4,6-diamino-5-nitroso-2-(3-pyridinyl)pyrimidine and heating the reaction mixture containing said 5-nitroso compound and formamide with a mixture of formic acid and sodium dithionite dihydrate to produce said 2-(3-pyridinyl)-9H-purin-6-amine, for which no use is indicated.

reactant | 2-(3-pyridinyl)-9H-purin-6-amine | N1=CC(=CC=C1)C1=NC(=C2N=CNC2=N1)N | C10H8N6
reactant | nicotinamidine | C(C1=CN=CC=C1)(=N)N | C6H7N3
reactant | formamide | C(=O)N | CH3NO
product | 4,6-diamino-5-nitroso-2-(3-pyridinyl)pyrimidine | NC1=NC(=NC(=C1N=O)N)C=1C=NC=CC1 | C9H8N6O
